US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-prolyl-L-alaninate hydrochloride
495 mg (0.588 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl 1-(tert-butoxycarbonyl)-L-prolyl-L-alaninate were dissolved in 3 ml dichloromethane, and 5.876 ml of a 1N solution of hydrogen chloride in diethyl ether were added. After 6 hours of stirring, the precipitated solid was filtered off with suction, washed with diethyl ether and dried under reduced pressure. 410 mg (90% of theory) of the target compound were obtained.

reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl 1-(tert-butoxycarbonyl)-L-prolyl-L-alaninate | 0.588 mmol, 495 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)OCCOC2=CC=C(C=C2)C2=C(C(=NC(=C2C#N)N2CCCC2)SCC=2N=C(SC2)C2=CC=C(C=C2)Cl)C#N)CCC1 | C42H44ClN7O6S2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-prolyl-L-alaninate hydrochloride | Cl.N1[C@H](C(=O)N[C@@H](C)C(=O)OCCOC2=CC=C(C=C2)C2=C(C(=NC(=C2C#N)N2CCCC2)SCC=2N=C(SC2)C2=CC=C(C=C2)Cl)C#N)CCC1 | InChI=1S/C37H36ClN7O4S2.ClH/c1-23(42-34(46)31-5-4-14-41-31)37(47)49-18-17-48-28-12-8-24(9-13-28)32-29(19-39)33(45-15-2-3-16-45)44-36(30(32)20-40)51-22-27-21-50-35(43-27)25-6-10-26(38)11-7-25;/h6-13,21,23,31,41H,2-5,14-18,22H2,1H3,(H,42,46);1H/t23-,31-;/m0./s1
